US04698340
A mixture of 2-(4-hydroxy-3-nitrobenzylidene)acetylacetone (40 g), benzamidine hydrochloride (30.2 g) and triethylamine (31.2 ml) in n-butanol (400 ml) was refluxed for 2 hours. The reaction mixture, added ethyl acetate (100 ml), was washed with water (200 ml) and 5% hydrochloric acid (200 ml) successively. The solvent was evaporated and the residue was stirred with ethyl acetate (200 ml) for 1 hour. The crystals were collected by filtration, added a mixture of chloroform (200 ml) and water (200 ml) and adjusted to pH 8.5 by saturated potassium carbonate. The organic layer was evaporated in vacuo to give crude 5-acetyl-1,6-dihydro-6-(4-hydroxy-3-nitrophenyl)-4-methyl-2-phenylpyrmidine (45.5 g).

reactant | 2-(4-hydroxy-3-nitrobenzylidene)acetylacetone | 40 g | OC1=C(C=C(C=CC(=O)CC(C)=O)C=C1)[N+](=O)[O-] | C12H11NO5
reactant | benzamidine hydrochloride | 30.2 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | triethylamine | 31.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | n-butanol | 400 ml | C(CCC)O | C4H10O
product | 5-acetyl-1,6-dihydro-6-(4-hydroxy-3-nitrophenyl)-4-methyl-2-phenylpyrmidine | 45.5 g | C(C)(=O)C1=C(N=C(NC1C1=CC(=C(C=C1)O)[N+](=O)[O-])C1=CC=CC=C1)C | C19H17N3O4
